US04331678
A mixture of 3-t-butyl-5-methylthiopyrazole (6.0 g) and dimethylcarbamoyl chloride (4.3 g) in pyridine (40 ml) were refluxed (at 115° C.) for 16 hours. The pyridine was evaporated, and the residue poured into water and extracted with chloroform. The chloroform layer was washed with 2 N HCl (2×50 ml), then water (50 ml), dried and evaporated to give an oil which soon crystallised. Recrystallisation from 60°-80° petrol at 0° C. gave 5.0 g of 3-t-butyl-1-(dimethylcarbamoyl)-5-(methylthio)pyrazole (59% yield), melting point 56°-8°. Only a single isomer was shown to be present by nuclear magnetic resonance spectroscopy (NMR) and thin layer chromatography.

reactant | 3-t-butyl-5-methylthiopyrazole | 6.0 g | C(C)(C)(C)C1=NNC(=C1)SC | C8H14N2S
reactant | dimethylcarbamoyl chloride | 4.3 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3-t-butyl-1-(dimethylcarbamoyl)-5-(methylthio)pyrazole | 5.0 g, 59% yield | C(C)(C)(C)C1=NN(C(=C1)SC)C(N(C)C)=O | C11H19N3OS
